US08357693B2
A suspension of 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid (120 mg, 0.29 mmol), PyBOP® (150 mg, 0.29 mmol), DIEA (152 μL, 0.87 mmol) in CH2Cl2 (5 mL) was stirred at RT for 10-15 minutes. To this solution of activated acid was added N-methylpropan-2-amine (30 μL, 0.29 mmol). The reaction mixture was stirred at RT for 3 h and concentrated in vacuo. The crude product was purified using prep HPLC (method 5-25-50—80 mins) and was further washed with ethyl ether and drops of CH2Cl2 to afford 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-N-isopropyl-N-methylacetamide. (12 mg, 0.025 mmol, 9%)

reactant | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid | 0.29 mmol, 120 mg | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)O)C=CC1 | C23H17N5O3
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.87 mmol, 152 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methylpropan-2-amine | 0.29 mmol, 30 μL | CNC(C)C | C4H11N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-N-isopropyl-N-methylacetamide | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)N(C)C(C)C)C=CC1 | C27H26N6O2
